US05059597
6 g of ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-cyclopropylamino-acrylate are heated in 100 ml of dimethylformamide at 150° C. with 2.75 g of potassium carbonate for 2.5 hours. The mixture is poured into 600 ml of ice-water and the precipitate is filtered off with suction, washed with water and dried. 5.2 g of ethyl 5,7-dichloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate of melting point 227°-229° C. are obtained.

reactant | ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-cyclopropylamino-acrylate | 6 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C(=CC(=C1F)Cl)F | C15H13Cl2F2NO3
reactant | potassium carbonate | 2.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 5,7-dichloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 5.2 g | ClC1=C2C(C(=CN(C2=CC(=C1F)Cl)C1CC1)C(=O)OCC)=O | C15H12Cl2FNO3
